US07960569B2
1-(Phenylsulfonyl)-1H-indol-3-ylboronic acid (150.9 mg, 0.501 mmol), 2-tert-butylphenyl trifluoromethanesulfonate (255 mg, 0.902 mmol) and tetrakis(triphenylphosphine)palladium (0) (58 mg, 0.050 mmol) are combined in a septa capped microwave vial and placed under an argon atmosphere. Degassed solutions of 2 M sodium carbonate (0.75 mL, 1.50 mmol) and of dioxane (2.5 mL) were introduced and the vial heated to 150° C. for 15 minutes in a microwave reactor. The cooled reaction mixture was diluted with water and ethyl acetate, the phases separated and the aqueous extracted twice more with ethyl acetate. The combined extracts were washed with water, brine, dried over sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography eluting with a gradient of ethyl acetate and hexanes to give 3-(2-tert-butylphenyl)-1-(phenylsulfonyl)-1H-indole (175.8 mg, 92%) as a colorless gummy solid.

reactant | 1-(Phenylsulfonyl)-1H-indol-3-ylboronic acid | 0.501 mmol, 150.9 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)B(O)O | C14H12BNO4S
reactant | 2-tert-butylphenyl trifluoromethanesulfonate | 0.902 mmol, 255 mg | FC(S(=O)(=O)OC1=C(C=CC=C1)C(C)(C)C)(F)F | C11H13F3O3S
reactant | sodium carbonate | 1.50 mmol, 2 M, 0.75 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.050 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-tert-butylphenyl)-1-(phenylsulfonyl)-1H-indole | 175.8 mg, 92% | C(C)(C)(C)C1=C(C=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C24H23NO2S
